US08445499B2
Step 3: 1-(5-fluoro-2-methylpyrimidin-4-yl)-4,4′-bipiperidine
The tert-butyl 1′-(5-fluoro-2-methylpyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate (22 mg, 0.058 mmol) was mixed with 0.2 mL of TFA and stirred at r.t. for 5 min and was concentrated on rotavapor to yield title compound and was used directly for next step.

reactant | tert-butyl 1′-(5-fluoro-2-methylpyrimidin-4-yl)-4,4′-bipiperidine-1-carboxylate | 0.058 mmol, 22 mg | FC=1C(=NC(=NC1)C)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H31FN4O2
reactant | TFA | 0.2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(5-fluoro-2-methylpyrimidin-4-yl)-4,4′-bipiperidine | FC=1C(=NC(=NC1)C)N1CCC(CC1)C1CCNCC1 | C15H23FN4
